US09145433B2
3-Chloro-2-(3-methylphenyl)pyridine was synthesized analogous to the reaction conditions used in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole by heating the mixture of 3-methylphenyl boronic acid (1.76 g, 12.9 mmol), 2-bromo-3-chloropyridine (2.7 g, 14.2 mmol), Pd(PPh3)4 (0.9 g, 0.77 mmol) and 2M aq. Na2CO3 (16 mL, 32 mmol) in 1,4-dioxane (125 mL) under argon atmosphere for 3 h. Upon work-up of the reaction mixture, as discussed in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole, the crude concentrate was purified by flash silica gel column chromatography [Combiflash® companion System® with RediSep® silica gel column 40 g, 10-30% EtOAC/hexanes eluting solvent gradient upon liquid loading on to column] to obtain 3-chloro-2-(3-methylphenyl)pyridine (1.62 g, 61%) as a clear liquid. 1H NMR (DMSO-d6): δ 8.60 (dd, 1H, J=1.4 and 4.7 Hz), 8.00 (dd, 1H, J=1.4 and 8.2 Hz), 7.44-7.37 (m, 3H), 7.25 (app d, 1H, J=8.2 Hz), 2.36 (s, 3H).LCMS: 97%, MS (m/e) 204.

reactant | 5-(2-chloropyridin-3-yl)-1H-indazole | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
reactant | 3-methylphenyl boronic acid | 12.9 mmol, 1.76 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | 2-bromo-3-chloropyridine | 14.2 mmol, 2.7 g | BrC1=NC=CC=C1Cl | C5H3BrClN
reactant | Na2CO3 | 32 mmol, 2M, 16 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.77 mmol, 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-chloro-2-(3-methylphenyl)pyridine | 1.62 g, 61% | ClC=1C(=NC=CC1)C1=CC(=CC=C1)C | C12H10ClN
